US08877760B2
5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(4-(isoxazol-5-yl)phenylamino)pyrazine-2-carboxamide
A mixture of 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-chloropyrazine-2-carbonitrile (74 mg, 0.257 mmol), 4-(isoxazol-5-yl)aniline (60 mg, 0.375 mmol), K2CO3 (80 mg, 0.579 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(4-(isoxazol-5-yl)phenylamino)pyrazine-2-carbonitrile (4 mg). The compound 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(4-(isoxazol-5-yl)phenylamino)pyrazine-2-carbonitrile (4 mg, 0.010 mmol) was dissolved in EtOH (1 mL) and DMSO (0.5 mL), aq. 1N NaOH (0.50 mL) and aq. H2O2 (30%, 0.50 mL) were added. The mixture was stirred at room temperature for 60 min. HOAc (0.25 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (3 mg). MS 430.4 (M+H); UV 202.3, 234.0, 274.4, 331.8 nm; t 0.483 min.

reactant | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(4-(isoxazol-5-yl)phenylamino)pyrazine-2-carbonitrile | 0.010 mmol, 4 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C#N)NC1=CC=C(C=C1)C1=CC=NO1 | C20H19F2N7O
reactant | NaOH | 1N, 0.50 mL | [OH-].[Na+]
reactant | H2O2 | 0.50 mL | OO | H2O2
reactant | HOAc | 0.25 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(4-(isoxazol-5-yl)phenylamino)pyrazine-2-carboxamide | 3 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C(=O)N)NC1=CC=C(C=C1)C1=CC=NO1 | C20H21F2N7O2
